spice
* Netlist for the given circuit

VDD 2 0 DC 5V
Vin 5 0 DC 1V
I1 3 0 DC 1mA
RD 2 1 1k
C1 5 3 10uF

M1 1 44 3 3 NMOS

* M1: Drain (1), Gate (44), Source (3), Body (3)
* RD: Connected between VDD and Drain of M1
* C1: Connected between Vin and Gate of M1
* I1: Current source connected to source of M1

.end